US06528525B1
(c) Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-t-butylphenoxy)propionate
In a similar manner to that described in Reference example 25, a reaction was carried out using ethyl 2-(4-t-butylphenoxy)-3-(4-hydroxyphenyl)propionate (2.37 g), which is the product of Reference example 36(b), t-butyl 2-methanesulfonyloxyethylcarbamate (3.60 g) and potassium carbonate (4.78 g) and the reaction mixture was treated to afford the title compound (3.13 g) as a colorless oil.

reactant | ethyl 2-(4-t-butylphenoxy)-3-(4-hydroxyphenyl)propionate | 2.37 g | C(C)(C)(C)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)O)C=C1 | C21H26O4
reactant | t-butyl 2-methanesulfonyloxyethylcarbamate | 3.60 g | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
reactant | potassium carbonate | 4.78 g | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-t-butylphenoxy)propionate | 3.13 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)(C)C | C28H39NO6
